2165-08-15 07:42:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - Pt had episode of hallucination and psychosis shortly after receiving
   percocet. Given 0.5mg Haldol IV with good effect.
   -CIWA scale has been < 10, but 19 at the time of hallucination. No
   lorazepam received
   - Per father, patient has had hallucinations/paranoia with opiods in
   the past.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2165-8-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-8-14**] 04:18 PM
   Haloperidol (Haldol) - [**2165-8-15**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-15**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 99 (99 - 134) bpm
   BP: 162/90(106) {135/73(90) - 162/101(111)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,970 mL
                                                                  1,020 mL
   PO:
                                                                    920 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  2,050 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  1,370 mL
   Urine:
                                                                  2,440 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: Pt sleepy, NAD
   CV: tachycardic, reg rate, no m/r/g
   Resp: CTAB, no w/r/r
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Not assessed
   Neurologic: Responds to verbal command, patient has 4/5 strength in
   arms and marginal improvement in legs [**3-5**]+, coordination improved with
   finger to nose test. Patient alert and oriented. Not hallucinating,
   paranoid, or delusional currently
   Labs / Radiology
   268 K/uL
   10.0 g/dL
   88 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.2 mEq/L
   2 mg/dL
   108 mEq/L
   141 mEq/L
   28.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2165-8-13**]  05:52 AM
                             [**2165-8-14**]  04:40 AM
                             [**2165-8-15**]  04:06 AM
   WBC
   6.8
   4.7
   3.9
   Hct
   31.6
   30.0
   28.5
   Plt
   [**Telephone/Fax (3) 7745**]
   Cr
   0.6
   0.6
   0.5
   Glucose
   125
   80
   88
   Other labs: PT / PTT / INR:13.0/27.9/1.1, ALT / AST:44/84, Alk Phos / T
   Bili:102/0.7, Albumin:2.9 g/dL, LDH:243 IU/L, Ca++:8.5 mg/dL, Mg++:1.7
   mg/dL, PO4:4.2 mg/dL
   Imaging: MRI/MRV: No neurovascular abnormality identified. No evidence
   for venous sinus
   thrombosis.
   EEG: This is an abnormal portable routine EEG due to a slight
   slowing of the background rhythm. These findings suggest a mild
   encephalopathy affecting both cortical and subcortical structures.
   Medications, metabolic disturbances, and infection are among the most
   common causes. Nevertheless, there were no areas of prominent focal
   slowing although encephalopathies can obscure focal findings. There
   were no clearly epilptiform features.
   Microbiology: Urine culture pending
   Herpes PCR CSF pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
   # Altered mental status likely [**3-4**] thiamine deficiency.  Thiamince
   deficiency likely caused by possible anorexia and alcohol abuse. Also
   to be considered:  viral CNS infections, Syphillis, thyroid disorders,
   subacute combined degeneration, Lyme's disease, alcohol withdrawl,
   [**Last Name (un) **]-[**Location (un) **]
   -Thiamine + folate repletion
   -Close f/u with neuro service
   -MRI shows no abnormality
   -EEG not suggestive of seizure
   -f/u CSF cultures, viral PCR pending
   -Continue acyclovir until HSV cultures negative
   -Psych eval : Schedule team meeting this week (with facilitation by
   social
   work) to discuss treatment goals w/r/t anorexia nervosa.
   - Nutrition following
   # Heavy ETOH use.  Per boyfriend, pt is regular drinker, usually [**3-5**]
   drinks per night, usually not more, has been drinking ~1 bottle of wine
   past 2 weeks. No history of withdrawl.
   -Lorazepam Q2 PRN. Pt did not get any yesterday. Will D/C when
   withdrawal not a concern
   -SW following
   # + UA
   -rx with Bactrin DS day 3 of 3
   -f/u urine cultures
   .
   # Tachycardia. Not improving after fluid.
   - Possibly due to agitation and pain
   -monitor I/Os
   -CIWA per above.
   # Pain: Pain control with Ultram if needed. Will not try gabapentin now
   due to concern over mental status changes.
   # FEN:IVF for HR, UOP. Replete lytes.
   ICU Care
   Nutrition: regular
   Glycemic Control good:
   Lines:
   18 Gauge - [**2165-8-14**] 06:59 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending above and family meeting

2165-08-16 05:47:00 Physician Resident Progress Note
Chief Complaint: Thiamine deficiency
   24 Hour Events:
   - Needed extra dose of Ultram for pain control. Describes pain as [**7-10**]
   without ultram. Feels like Ultram helps.
   - Family meeting planned for [**8-16**] around noon
   -neurologist from MHA called for update, would like to be apprised of
   her discharge plan/progress [**University/College 7763**].  [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **]
   [**Telephone/Fax (1) 7764**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2165-8-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-8-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Numbness / tingling
   Flowsheet Data as of  [**2165-8-16**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 99 (99 - 119) bpm
   BP: 139/88(100) {107/79(87) - 162/98(110)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,580 mL
                                                                    100 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    950 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    325 mL
   Urine:
                                                                  2,165 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person and place, gets month and year, but not
   date, Movement: Not assessed, Tone: Normal, Weakness in legs yet to
   improve 2+, Arem strenth 3- 4+
   Labs / Radiology
   268 K/uL
   10.0 g/dL
   88 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.2 mEq/L
   2 mg/dL
   108 mEq/L
   141 mEq/L
   28.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2165-8-13**]  05:52 AM
                             [**2165-8-14**]  04:40 AM
                             [**2165-8-15**]  04:06 AM
   WBC
   6.8
   4.7
   3.9
   Hct
   31.6
   30.0
   28.5
   Plt
   [**Telephone/Fax (3) 7745**]
   Cr
   0.6
   0.6
   0.5
   Glucose
   125
   80
   88
   Other labs: PT / PTT / INR:13.0/27.9/1.1, ALT / AST:44/84, Alk Phos / T
   Bili:102/0.7, Albumin:2.9 g/dL, LDH:243 IU/L, Ca++:8.5 mg/dL, Mg++:1.7
   mg/dL, PO4:4.2 mg/dL
   Microbiology: Lyme negative
   Urince culture: MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT
   WITH FECAL CONTAMINATION.
   Assessment and Plan
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
   # Altered mental status likely [**3-4**] thiamine deficiency.  Thiamince
   deficiency likely caused by possible anorexia and alcohol abuse. Also
   to be considered:  viral CNS infections, Syphillis, thyroid disorders,
   subacute combined degeneration, Lyme's disease, alcohol withdrawl,
   [**Last Name (un) **]-[**Location (un) **]
   -Thiamine + folate repletion
   -Close f/u with neuro service
   - f/u CSF cultures, viral PCR pending
   -Continue acyclovir until HSV cultures negative
   -Team meeting today at 11am
   # Heavy ETOH use.  Per boyfriend, pt is regular drinker, usually [**3-5**]
   drinks per night, usually not more, has been drinking ~1 bottle of wine
   past 2 weeks. No history of withdrawl.
   -Lorazepam Q2 PRN. Pt did not get any yesterday. Will D/C when
   withdrawal not a concern
   -SW following
   # + UA
   -finished course of Bactrim
   # Tachycardia.
   - Possibly due to agitation and pain
   -monitor I/Os
   -CIWA per above.
   # Pain: Pain control with Ultram if needed. Will not try gabapentin now
   due to concern over mental status changes.
   # FEN:IVF for HR, UOP. Replete lytes.
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2165-8-14**] 06:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Family meeting today
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility